US07495018B2
4-[2-(2-chlorophenyl)-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridylamine
A solution of 2-(2-amino-4-pyridyl)-2-bromo-1-(3-methylphenyl)ethanone hydrobromide (5.00 g, 12.3 mmol) and 2-chlorothiobenzamide (1.06 g, 11.9 mmol) in N,N-dimethylformamide (40 mL) was stirred for 14 hours at room temperature. Aqueous sodium hydrogen carbonate solution was poured into the reaction mixture, and extracted with ethyl acetate. The extracts were washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (hexaneethyl acetate=4:1 to 2:1) to obtain a crystal. This crystal was washed with isopropyl ether, to obtain a title compound (3.15 g, yield 81%).

reactant | 2-(2-amino-4-pyridyl)-2-bromo-1-(3-methylphenyl)ethanone hydrobromide | 12.3 mmol, 5.00 g | Br.NC1=NC=CC(=C1)C(C(=O)C1=CC(=CC=C1)C)Br
reactant | 2-chlorothiobenzamide | 11.9 mmol, 1.06 g | ClC1=C(C(=S)N)C=CC=C1 | C7H6ClNS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 4-[2-(2-chlorophenyl)-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridylamine | 3.15 g, yield 81% | ClC1=C(C=CC=C1)C=1SC(=C(N1)C1=CC(=CC=C1)C)C1=CC(=NC=C1)N | C21H16ClN3S
